US07273878B2
To 25 ml of N,N-dimethylformamide were dissolved 2.60 g (13 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate and 2.19 g (10 mmol) of 4-methyl-2-phenylthiazole-5-carboxylic acid, followed by the addition of 1.68 g (20 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate ether: hexane=1:9) to obtain 3.03 g (yield: 94%) of 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-phenylthiazole-5-carboxylate.

reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 13 mmol, 2.60 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | 4-methyl-2-phenylthiazole-5-carboxylic acid | 10 mmol, 2.19 g | CC=1N=C(SC1C(=O)O)C1=CC=CC=C1 | C11H9NO2S
reactant | sodium hydrogencarbonate | 20 mmol, 1.68 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-phenylthiazole-5-carboxylate | 3.03 g, yield: 94% | CC=1N=C(SC1C(=O)OCCC(=C(F)F)C)C1=CC=CC=C1 | C16H15F2NO2S
